US09062028B2
Step A. Methyl 4-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-oxobutanoate
The title compound was prepared using a procedure analogous to 1-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one except that 4-(2,3-dimethylphenoxy)butanoic acid was replaced by 4-methoxy-4-oxobutanoic acid. LCMS, [M+Na]+=349.9. 1H NMR (400 MHz, CDCl3) δ 7.38 (d, J=8.0 Hz, 1H), 7.25 (br. s, 1H), 7.03 (t, J=8.1 Hz, 1H), 3.80-3.73 (m, 2H), 3.68 (d, J=11.0 Hz, 2H), 3.66 (s, 3H), 2.81 (t, J=6.9 Hz, 2H), 2.78-2.72 (m, 2H), 2.71-2.63 (m, 2H), 1.99 (dd, J=12.5, 6.6 Hz, 2H).

reactant | 1-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | BrC1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O | C21H24BrNO2
reactant | 4-(2,3-dimethylphenoxy)butanoic acid | CC1=C(OCCCC(=O)O)C=CC=C1C | C12H16O3
reactant | 4-methoxy-4-oxobutanoic acid | COC(CCC(=O)O)=O | C5H8O4
product | Methyl 4-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-oxobutanoate | BrC1=C2CCCN(C2=CC=C1)C(CCC(=O)OC)=O | C14H16BrNO3
